US07491733B2
Step 1: 2-methylcarboxyindane (D)
A solution of α,α′-dibromo-o-xylene (203.51 g, 0.77 mol) in 1.5 l of ether is added to a solution of diethyl malonate (127 g, 0.79 mol), sodium methoxide (314 ml, 1.70 mol), ethanol (100 ml) and ether (500 ml). The mixture is refluxed for 5 hours, then filtered, and finally concentrated. The residue is taken up in 500 ml of water. 173 g of potassium hydroxide are added, and the mixture is refluxed for 18 hours. The reaction medium is poured into a hydrochloric acid solution and the precipitate formed is filtered off by suction and then dried. The solid obtained is maintained at 200° C. for 20 minutes and the new solid obtained is recrystallised from 400 ml of heptane. The crystals obtained are taken up in 400 ml of methanol and, after 5 drops of concentrated sulfuric acid have been added, the mixture is refluxed for 4 hours and then concentrated. The residue is dissolved in 600 ml of ether. This ether phase is washed with saturated sodium bicarbonate solution and saturated sodium chloride solution and then dried over sodium sulfate and concentrated, giving 73.6 g (54%) of a clear oil.

reactant | α,α′-dibromo-o-xylene | 0.77 mol, 203.51 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | diethyl malonate | 0.79 mol, 127 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium methoxide | 1.70 mol, 314 ml | C[O-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | 1.5 l | CCOCC | C4H10O
solvent | methanol | 400 ml | CO | CH4O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | ether | 500 ml | CCOCC | C4H10O
product | 2-methylcarboxyindane | 73.6 g, 54% | CC1C(C2=CC=CC=C2C1)C(=O)O | C11H12O2
